2178-12-19 15:07:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo women well known to the MICU, with recent admit [**12-2**] for
   influenza c/b H. influenza PNA and bacteremia and ARDS.  Was extubated
   on [**12-14**].  And went to floor on [**12-15**].  On floor has had an oxygen
   requirement of 4-5L.  Has also been spiking fevers since being on
   [**Hospital1 **].  Was started on meropenem on [**12-13**].  Was also on vanco for few
   days and ?defervesced  and then was stopped.
   24 Hour Events:
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Meropenem - [**2178-12-16**] 03:58 PM
   Infusions:
   Other ICU medications:
   Other medications:
   albuterol
   lasix
   meropenem
   giadone
   bowel regimen
   trazadone
   PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-19**] 03:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 81 (81 - 91) bpm
   BP: 105/55(66) {100/55(66) - 105/58(68)} mmHg
   RR: 28 (22 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    150 mL
   Urine:
   150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   879 K/uL
   107 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.8 mEq/L
   9 mg/dL
   104 mEq/L
   140 mEq/L
   27.0 %
   16.9 K/uL
        [image002.jpg]
                             [**2178-12-12**]  08:59 AM
                             [**2178-12-12**]  05:25 PM
                             [**2178-12-13**]  04:03 AM
                             [**2178-12-13**]  03:35 PM
                             [**2178-12-14**]  04:00 AM
                             [**2178-12-14**]  04:03 PM
                             [**2178-12-14**]  05:20 PM
                             [**2178-12-15**]  03:30 AM
                             [**2178-12-16**]  03:00 AM
                             [**2178-12-16**]  11:08 AM
   WBC
   17.6
   16.4
   11.7
   14.9
   13.7
   15.7
   16.9
   Hct
   22.8
   24.4
   21.9
   23.1
   23.3
   24.2
   27.0
   Plt
   749
   815
   760
   [**Telephone/Fax (3) 4365**]
   879
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   33
   35
   Glucose
   119
   101
   106
   110
   102
   84
   107
   Other labs: PT / PTT / INR:13.2/25.7/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:26/20, Alk Phos / T Bili:191/0.3, Amylase / Lipase:121/84,
   Differential-Neuts:87.9 %, Band:0.0 %, Lymph:8.6 %, Mono:2.2 %, Eos:1.2
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   LDH:267 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Hypoxemia:  Likely multifactorial due to continued fluid overload with
   underlying lung injury due to ARDS.   Fever may also be contributing by
   increasing metabolic load.  Continue to
   diurese as she currently weighs 54kg and dry weight is 103lbs.
   Fevers:  increased WBC, however has been on meropenem and vanco with no
   improvement.  Would be inclined to stop antibiotics for now and check
   for C. diff.
   Elevated lipase/amylase.  no clear explanation, no abdominal
   discomfort, doubt pancreatitis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-19**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2178-12-20 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt transferred to the MICU for tachypnea and hypoxia
   - Meropenem stopped as completed course and unclear what were are
   treating at this point, may have drug fever
   - IS overnight with some difficulty, coughing.
   - Temp up to 100.4, did not restart antibiotics
   - Replaced K and Mag
 PICC LINE - START [**2178-12-19**] 02:00 PM
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2178-12-19**] 04:00 PM
   Pantoprazole (Protonix) - [**2178-12-19**] 08:46 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-20**] 12:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-20**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.5
C (97.7
   HR: 96 (81 - 110) bpm
   BP: 104/56(67) {91/36(52) - 113/77(84)} mmHg
   RR: 37 (22 - 51) insp/min
   SpO2: 83%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    340 mL
                                                                    167 mL
   PO:
                                                                    340 mL
                                                                    100 mL
   TF:
   IVF:
   67 mL
   Blood products:
   Total out:
                                                                  1,428 mL
                                                                    480 mL
   Urine:
                                                                  1,428 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,088 mL
                                                                   -313 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 83%
   ABG: ///35/
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented x 3
   Labs / Radiology
   687 K/uL
   7.9 g/dL
   126 mg/dL
   0.4 mg/dL
   35 mEq/L
   3.5 mEq/L
   8 mg/dL
   99 mEq/L
   139 mEq/L
   24.0 %
   21.8 K/uL
        [image002.jpg]
                             [**2178-12-12**]  05:25 PM
                             [**2178-12-13**]  04:03 AM
                             [**2178-12-13**]  03:35 PM
                             [**2178-12-14**]  04:00 AM
                             [**2178-12-14**]  04:03 PM
                             [**2178-12-14**]  05:20 PM
                             [**2178-12-15**]  03:30 AM
                             [**2178-12-16**]  03:00 AM
                             [**2178-12-16**]  11:08 AM
                             [**2178-12-20**]  01:11 AM
   WBC
   17.6
   16.4
   11.7
   14.9
   13.7
   15.7
   16.9
   21.8
   Hct
   22.8
   24.4
   21.9
   23.1
   23.3
   24.2
   27.0
   24.0
   Plt
   749
   815
   760
   [**Telephone/Fax (2) 4374**]87
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   TCO2
   35
   Glucose
   119
   101
   106
   110
   102
   84
   107
   126
   Other labs: PT / PTT / INR:13.2/25.7/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:26/20, Alk Phos / T Bili:191/0.3, Amylase / Lipase:121/84,
   Differential-Neuts:88.6 %, Band:0.0 %, Lymph:8.1 %, Mono:2.0 %, Eos:1.3
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   LDH:267 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement.
   .
   1. Hypoxia
   Patient had been stable on 4-5L NC and had an increase in her O2
   requirement on arrival to MICU. Etiology of her increased O2
   requirement is unclear. Differential includes significant
   deconditioning and increased activity over the last 48 hours,
   persistent and resolving ARDS picture, development of a new pneumonia
   over her pre-existing resolving ARDS, PE given her prolonged hospital
   course (although she has been on DVT prophylaxis), and congestive heart
   failure (although she has remained negative for the last 48-72 hours).
   Plan is the following:
   - continue face mask for now and wean O2 as tolerated
   - continue diuresis with goal I/Os 500cc-1L negative with prn lasix
   doses-patient responds well to 20 mg boluses
   - continue albuterol and ipratropium treatments
   - continue cepacol
   - patient has now completed treatment for her known H. flu bacteremia
   with azithromycin, 7 day empiric course of meropenem and no clear
   source
   - will discontinue antibiotics for now and restart meropenem and
   vancomycin if patient decompensates
   - Chest PT
   .
   2. Depression
   -Continue Geodon, Prozac
   - consider restarting Ritalin
   - Husband hinting at possible anorexia history-SW consult, and
   Nutrition for calorie counts
   .
   3. Fever and Leukocytosis
   Unclear etiology for patient's fever and leukocytosis. Blood cultures
   pending, urine cultures pending, Cdiff negative x 1.
   - follow-up cultures
   - rule-out Cdiff with 2 additional enzymes, will start empiric vanc
   today for possible C diff infection
   - hold off antibiotics for now and restart pending further culture data
   - Amylase/lipase for today
   - UA
   .
   FEN: Regular diet, Replete lytes
   Prophy: Heparin SQ, scheduled bowel regimen, PPI
   Access: PICC
   Code: FULL CODE
   Communication: with patient and husband
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 ELECTROLYTE & FLUID DISORDER, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-19**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-20 11:34:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo women with H flu PNA, ARDS, returned from floor yesterday with
   increasing hypoxemia.
   24 Hour Events:
 PICC LINE - START [**2178-12-19**] 02:00 PM
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2178-12-19**] 04:00 PM
   Pantoprazole (Protonix) - [**2178-12-19**] 08:46 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-20**] 12:44 AM
   Other medications:
   trazadone
   prozac
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-20**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 35.7
C (96.2
   HR: 93 (81 - 110) bpm
   BP: 108/61(72) {91/36(52) - 114/77(84)} mmHg
   RR: 35 (22 - 51) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    340 mL
                                                                    300 mL
   PO:
                                                                    340 mL
                                                                    200 mL
   TF:
   IVF:
   100 mL
   Blood products:
   Total out:
                                                                  1,428 mL
                                                                    880 mL
   Urine:
                                                                  1,428 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,088 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 95%
   ABG: ///35/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : course rales R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   687 K/uL
   126 mg/dL
   0.4 mg/dL
   35 mEq/L
   3.5 mEq/L
   8 mg/dL
   99 mEq/L
   139 mEq/L
   24.0 %
   21.8 K/uL
        [image002.jpg]
                             [**2178-12-12**]  05:25 PM
                             [**2178-12-13**]  04:03 AM
                             [**2178-12-13**]  03:35 PM
                             [**2178-12-14**]  04:00 AM
                             [**2178-12-14**]  04:03 PM
                             [**2178-12-14**]  05:20 PM
                             [**2178-12-15**]  03:30 AM
                             [**2178-12-16**]  03:00 AM
                             [**2178-12-16**]  11:08 AM
                             [**2178-12-20**]  01:11 AM
   WBC
   17.6
   16.4
   11.7
   14.9
   13.7
   15.7
   16.9
   21.8
   Hct
   22.8
   24.4
   21.9
   23.1
   23.3
   24.2
   27.0
   24.0
   Plt
   749
   815
   760
   [**Telephone/Fax (2) 4374**]87
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   TCO2
   35
   Glucose
   119
   101
   106
   110
   102
   84
   107
   126
   Other labs: PT / PTT / INR:13.2/25.7/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:26/20, Alk Phos / T Bili:191/0.3, Amylase / Lipase:121/84,
   Differential-Neuts:88.6 %, Band:0.0 %, Lymph:8.1 %, Mono:2.0 %, Eos:1.3
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   LDH:267 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Respiratory distress/ARDS/H flu PNA:  Slightly improved today, still
   requiring a lot of oxygen.
   Still fluid overloaded on exam so continue to diurese with lasix.
   fever/leukocytosis:  will treat empirically for C. diff with flagyl.
   Has had multiple courses  of antibiotics with no improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-19**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2178-12-21 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Started on Flagyl for empiric C diff coverage
   -Continued to cough started antitussives
   -Diuresis: -1.5 L
   -consulted SW and Nutrition for calorie counts for possible eating d/o
 URINE CULTURE - At [**2178-12-20**] 12:03 PM
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Metronidazole - [**2178-12-20**] 08:30 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2178-12-20**] 12:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-21**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.5
   HR: 93 (81 - 111) bpm
   BP: 102/50(62) {92/39(52) - 121/61(73)} mmHg
   RR: 38 (30 - 46) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,255 mL
                                                                    100 mL
   PO:
                                                                  1,155 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,835 mL
                                                                    450 mL
   Urine:
                                                                  2,835 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,580 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///36/
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented x 3
   Labs / Radiology
   630 K/uL
   8.1 g/dL
   127 mg/dL
   0.3 mg/dL
   36 mEq/L
   3.4 mEq/L
   8 mg/dL
   100 mEq/L
   140 mEq/L
   24.2 %
   28.0 K/uL
        [image002.jpg]
                             [**2178-12-13**]  04:03 AM
                             [**2178-12-13**]  03:35 PM
                             [**2178-12-14**]  04:00 AM
                             [**2178-12-14**]  04:03 PM
                             [**2178-12-14**]  05:20 PM
                             [**2178-12-15**]  03:30 AM
                             [**2178-12-16**]  03:00 AM
                             [**2178-12-16**]  11:08 AM
                             [**2178-12-20**]  01:11 AM
                             [**2178-12-21**]  01:58 AM
   WBC
   16.4
   11.7
   14.9
   13.7
   15.7
   16.9
   21.8
   28.0
   Hct
   24.4
   21.9
   23.1
   23.3
   24.2
   27.0
   24.0
   24.2
   Plt
   [**Telephone/Fax (2) 4386**]30
   Cr
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   0.3
   TCO2
   35
   Glucose
   101
   106
   110
   102
   84
   107
   126
   127
   Other labs: PT / PTT / INR:13.8/27.8/1.2, CK / CKMB / Troponin-T:27//,
   ALT / AST:26/20, Alk Phos / T Bili:191/0.3, Amylase / Lipase:102/57,
   Differential-Neuts:88.6 %, Band:0.0 %, Lymph:8.1 %, Mono:2.0 %, Eos:1.3
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   LDH:267 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement.
   .
   1. Hypoxia
   Patient had been stable on 4-5L NC and had an increase in her O2
   requirement on arrival to MICU. Etiology of her increased O2
   requirement is unclear. Differential includes significant
   deconditioning and increased activity over the last 48 hours,
   persistent and resolving ARDS picture, development of a new pneumonia
   over her pre-existing resolving ARDS, PE given her prolonged hospital
   course (although she has been on DVT prophylaxis), and congestive heart
   failure (although she has remained negative for the last 48-72 hours).
   Plan is the following:
   - continue face mask for now and wean O2 as tolerated
   - continue diuresis with goal I/Os 500cc-1L negative with prn lasix
   doses-patient responds well to 20 mg boluses
   - continue albuterol and ipratropium treatments
   - continue cepacol
   - patient has now completed treatment for her known H. flu bacteremia
   with azithromycin, 7 day empiric course of meropenem and no clear
   source
   - will discontinue antibiotics for now and restart meropenem and
   vancomycin if patient decompensates
   - Chest PT
   .
   2. Depression
   -Continue Geodon, Prozac
   - consider restarting Ritalin
   - Husband hinting at possible anorexia history-SW consult, and
   Nutrition for calorie counts
   .
   3. Fever and Leukocytosis
   Unclear etiology for patient's fever and leukocytosis. Blood cultures
   pending, urine cultures pending, Cdiff negative x 1.
   - follow-up cultures
   - rule-out Cdiff with 2 additional enzymes, will start empiric vanc
   today for possible C diff infection
   - hold off antibiotics for now and restart pending further culture data
   - Amylase/lipase for today
   - UA
   .
   FEN: Regular diet, Replete lytes
   Prophy: Heparin SQ, scheduled bowel regimen, PPI
   Access: PICC
   Code: FULL CODE
   Communication: with patient and husband
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 ELECTROLYTE & FLUID DISORDER, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-19**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-22 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2178-12-21**] Events:
   - RUQ U/S: distended GB with sludge, no evidence of cholecystitis
   - LENIs: neg
   - thoracentesis: deferred until AM
   - foley changed
   - PICC d/c
   - nutrition -> taking supplements, improved intake recently
 PICC LINE - STOP [**2178-12-21**] 05:00 PM
 BLOOD CULTURED - At [**2178-12-21**] 07:19 PM
 URINE CULTURE - At [**2178-12-22**] 05:19 AM
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Metronidazole - [**2178-12-22**] 04:58 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-22**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.4
C (97.5
   HR: 85 (83 - 108) bpm
   BP: 89/45(56) {82/34(47) - 113/61(91)} mmHg
   RR: 38 (27 - 47) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    680 mL
                  PO:
                                                                    680 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    440 mL
   Urine:
                                                                  1,980 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,300 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented x 3
   Labs / Radiology
   516 K/uL
   7.8 g/dL
   108 mg/dL
   0.3 mg/dL
   34 mEq/L
   3.6 mEq/L
   10 mg/dL
   102 mEq/L
   139 mEq/L
   23.6 %
   28.4 K/uL
        [image002.jpg]
                             [**2178-12-13**]  03:35 PM
                             [**2178-12-14**]  04:00 AM
                             [**2178-12-14**]  04:03 PM
                             [**2178-12-14**]  05:20 PM
                             [**2178-12-15**]  03:30 AM
                             [**2178-12-16**]  03:00 AM
                             [**2178-12-16**]  11:08 AM
                             [**2178-12-20**]  01:11 AM
                             [**2178-12-21**]  01:58 AM
                             [**2178-12-22**]  03:16 AM
   WBC
   11.7
   14.9
   13.7
   15.7
   16.9
   21.8
   28.0
   28.4
   Hct
   21.9
   23.1
   23.3
   24.2
   27.0
   24.0
   24.2
   23.6
   Plt
   [**Telephone/Fax (2) **]
   630
   516
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   0.3
   0.3
   TCO2
   35
   Glucose
   106
   110
   102
   84
   107
   126
   127
   108
   Other labs: PT / PTT / INR:13.8/27.8/1.2, CK / CKMB / Troponin-T:27//,
   ALT / AST:17/15, Alk Phos / T Bili:124/0.2, Amylase / Lipase:68/31,
   Differential-Neuts:88.6 %, Band:0.0 %, Lymph:8.1 %, Mono:2.0 %, Eos:1.3
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   LDH:292 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement.
   .
   1. Hypoxia
   Patient had been stable on 4-5L NC and had an increase in her O2
   requirement on arrival to MICU. Etiology of her increased O2
   requirement is unclear. Differential includes significant
   deconditioning and increased activity over the last 48 hours,
   persistent and resolving ARDS picture, development of a new pneumonia
   over her pre-existing resolving ARDS, PE given her prolonged hospital
   course (although she has been on DVT prophylaxis), and congestive heart
   failure (although she has remained negative for the last 48-72 hours).
   Plan is the following:
   - continue face mask for now and wean O2 as tolerated
   - continue diuresis with goal I/Os 500cc-1L negative with prn lasix
   doses-patient responds well to 20 mg boluses
   - continue albuterol and ipratropium treatments
   - continue cepacol
   - patient has now completed treatment for her known H. flu bacteremia
   with azithromycin, 7 day empiric course of meropenem and no clear
   source
   - Chest PT
   .
   2. Fever and Leukocytosis
   Unclear etiology for patient's fever and leukocytosis. Possible
   empyema, possible cholecystitis/cholangitis given elevated LFTs.  Blood
   cultures pending, urine cultures pending, Cdiff negative x 1.
   - follow-up cultures
   - rule-out Cdiff with 2 additional tests
   - f/u RUQ U/S
   - f/u LENIs
   - thoracentesis today
   - hold off antibiotics for now until thoracentesis and then consider
   broad-spectrum ABX
   - ID rec
d pulling PICC and foley
   .
   3. Depression
   -Continue Geodon, Prozac
   - consider restarting Ritalin
   - Husband hinting at possible anorexia history-SW consult, and
   Nutrition for calorie counts
   .
   FEN: Regular diet, Replete lytes
   Prophy: Heparin SQ, scheduled bowel regimen, PPI
   Access: PICC
   Code: FULL CODE
   Communication: with patient and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-12-21**] 05:00 PM
   22 Gauge - [**2178-12-22**] 12:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-23 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2178-12-22**] - [**2178-12-23**]:
   - nutrition c/s completed, patient having good calorie intake
   - RUQ u/s final report still pending
   - rpt urine sent bc black colored
 URINE CULTURE - At [**2178-12-22**] 05:08 PM
 BLOOD CULTURED - At [**2178-12-22**] 09:00 PM
 FEVER - 101.2
F - [**2178-12-22**] 08:00 PM
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Metronidazole - [**2178-12-22**] 04:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-12-23**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-23**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.4
C (97.6
   HR: 99 (78 - 105) bpm
   BP: 101/50(63) {89/37(50) - 117/58(72)} mmHg
   RR: 33 (20 - 47) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    670 mL
                                                                     60 mL
   PO:
                                                                    670 mL
                                                                     60 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,535 mL
                                                                    430 mL
   Urine:
                                                                  1,535 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -865 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///34/
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented x 3
   Labs / Radiology
   595 K/uL
   8.8 g/dL
   105 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.2 mEq/L
   10 mg/dL
   103 mEq/L
   143 mEq/L
   27.9 %
   27.5 K/uL
        [image002.jpg]
                             [**2178-12-14**]  04:00 AM
                             [**2178-12-14**]  04:03 PM
                             [**2178-12-14**]  05:20 PM
                             [**2178-12-15**]  03:30 AM
                             [**2178-12-16**]  03:00 AM
                             [**2178-12-16**]  11:08 AM
                             [**2178-12-20**]  01:11 AM
                             [**2178-12-21**]  01:58 AM
                             [**2178-12-22**]  03:16 AM
                             [**2178-12-23**]  03:13 AM
   WBC
   11.7
   14.9
   13.7
   15.7
   16.9
   21.8
   28.0
   28.4
   27.5
   Hct
   21.9
   23.1
   23.3
   24.2
   27.0
   24.0
   24.2
   23.6
   27.9
   Plt
   [**Telephone/Fax (2) **]
   [**Telephone/Fax (3) 4433**]
   Cr
   0.3
   0.4
   0.4
   0.4
   0.4
   0.3
   0.3
   0.4
   TCO2
   35
   Glucose
   110
   102
   84
   107
   126
   127
   108
   105
   Other labs: PT / PTT / INR:15.2/28.0/1.3, CK / CKMB / Troponin-T:27//,
   ALT / AST:14/13, Alk Phos / T Bili:124/0.3, Amylase / Lipase:78/41,
   Differential-Neuts:88.6 %, Band:0.0 %, Lymph:8.1 %, Mono:2.0 %, Eos:1.3
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   LDH:292 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement.
   .
   1. Hypoxia
   Patient had been stable on 4-5L NC and had an increase in her O2
   requirement on arrival to MICU. Etiology of her increased O2
   requirement is unclear. [**Name2 (NI) 4420**] likely is persistent ARDS with slow
   recovery
   - still requiring 60% face mask with desats upon movement.  RR
   increased to 40s this morning.  Did trial of bipap but patient did not
   tolerate it well secondary to anxiety.
   - will try to control anxiety  better today to see if RR decreases.
   Extra dose of ativan given, now trying a small 0.5 mg dose of morphine
   to see if anxiety is helped.  Will continue to monitor.  Will try to
   avoid intubation if possible.  If intubation is needed, would likely
   have tracheostomy placed quickly.
   - with fever and stable leukocytosis, most likely place of infection is
   lungs
 pna or emphysema.  Could have other source as well.  Today will
   do CT sinuses, CT chest/abd/pelvis for fever workup.
   - also rule out PE with CTA
   - sending beta glucan and galactomannan
   - starting impiric HAP treatment with vanco/zosyn, ID following.
   - continue diuresis with goal I/Os 500cc-1L negative with prn lasix
   doses-patient responds well to 20 mg boluses
   - continue albuterol and ipratropium treatments
   - continue cepacol
   - patient has now completed treatment for her known H. flu bacteremia
   with azithromycin, 7 day empiric course of meropenem and no clear
   source
   - Chest PT
   .
   2. Fever and Leukocytosis
 stable WBC, now with fever overnight.
   Unclear etiology for patient's fever and leukocytosis. Possible
   empyema, possible cholecystitis/cholangitis given elevated LFTs.  Blood
   cultures pending, urine cultures pending, Cdiff negative x 1.
   - CT scans as above
   - starting vanco/zosyn for HAP
   - thoracentesis if large fluid collection can be reached after CT scan
   completed
   - follow-up cultures, no obvious source yet
   - rule-out Cdiff with 2 additional tests, continuing impiric treatment
   with 14 d course of Flagyl,
   - RUQ neg for cholecystitis
   - LENIs negative
   - PICC removed, foley changed
   .
   3. Depression
   - seems to have worsening anxiety, will discuss with her psychiatrist
   any possible med changes
   - increasing prozac dose to 80 mg daily (up from 40 mg daily)
   -Continue Geodon
   - consider restarting Ritalin
   - Husband hinting at possible anorexia history-SW consult, and
   Nutrition for calorie counts, nutrition thinks she has adequate calorie
   intake for now.
   .
   FEN: Regular diet, Replete lytes
   Prophy: Heparin SQ, scheduled bowel regimen, PPI
   Access: PIVs
   Code: FULL CODE
   Communication: with patient and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-12-21**] 05:00 PM
   22 Gauge - [**2178-12-22**] 12:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-24 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-23**] Events:
   - RR increased over course of morning
   - started vanco/zosyn for HAP (on Flagyl for c.diff)
   - talked with Dr. [**Last Name (STitle) 4443**] (psychiatrist) # [**Telephone/Fax (1) 4460**] - he thinks
   that increasing prozac from 40 to 80 is ok choice for help with
   anxiety; pt has large underlying OCD component to psych hx, and he will
   come in on friday around lunch to meet with her
   - CT scan of sinuses, chest/abd/pelvis - clear sinuses, large pleural
   effusions, no PE
   - thoracentesis at 5 pm, drained 1L yellow fluid - exudative
   - anesthesia called, pt intubated 8 pm
   - propofol for sedation
   - placed on AC, Vt 400, PEEP 5, FiO2 100 --> 50, RR 16 with
   overbreathing into the 40s
   - tried weaning to FiO2 40 and did not tolerate, desat to 88 and even
   with increased PEEP at that level did not tolerate
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Metronidazole - [**2178-12-22**] 04:58 AM
   Vancomycin - [**2178-12-23**] 10:51 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-12-24**] 02:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-12-23**] 05:00 PM
   Pantoprazole (Protonix) - [**2178-12-24**] 05:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-24**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.2
C (100.8
   HR: 98 (85 - 110) bpm
   BP: 97/40(55) {90/35(48) - 139/74(89)} mmHg
   RR: 31 (14 - 49) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,195 mL
                                                                    183 mL
   PO:
                                                                    460 mL
             TF:
   IVF:
                                                                    735 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                  1,710 mL
   Urine:
                                                                  1,240 mL
                                                                  1,710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -45 mL
                                                                 -1,527 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 13 cmH2O
   SpO2: 93%
   ABG: 7.43/52/74/27/8
   Ve: 16.2 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented x 3
   Labs / Radiology
   489 K/uL
   8.5 g/dL
   106 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.9 mEq/L
   8 mg/dL
   99 mEq/L
   138 mEq/L
   26.7 %
   31.3 K/uL
        [image002.jpg]
                             [**2178-12-16**]  03:00 AM
                             [**2178-12-16**]  11:08 AM
                             [**2178-12-20**]  01:11 AM
                             [**2178-12-21**]  01:58 AM
                             [**2178-12-22**]  03:16 AM
                             [**2178-12-23**]  03:13 AM
                             [**2178-12-23**]  08:55 PM
                             [**2178-12-23**]  09:23 PM
                             [**2178-12-24**]  03:52 AM
                             [**2178-12-24**]  04:09 AM
   WBC
   15.7
   16.9
   21.8
   28.0
   28.4
   27.5
   34.6
   31.3
   Hct
   24.2
   27.0
   24.0
   24.2
   23.6
   27.9
   29.0
   26.7
   Plt
   [**Telephone/Fax (2) 4461**]89
   Cr
   0.4
   0.4
   0.3
   0.3
   0.4
   0.4
   0.4
   TCO2
   32
   36
   Glucose
   107
   126
   127
   108
   105
   109
   106
   Other labs: PT / PTT / INR:14.8/25.1/1.3, CK / CKMB / Troponin-T:27//,
   ALT / AST:[**11-16**], Alk Phos / T Bili:131/0.2, Amylase / Lipase:78/41,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:2.0
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL,
   LDH:550 IU/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement.
   .
   1. Hypoxia
   Patient had been stable on 4-5L NC and had an increase in her O2
   requirement on arrival to MICU. Etiology of her increased O2
   requirement is unclear. [**Name2 (NI) 4420**] likely is persistent ARDS with slow
   recovery
   - still requiring 60% face mask with desats upon movement.  RR
   increased to 40s this morning.  Did trial of bipap but patient did not
   tolerate it well secondary to anxiety.
   - will try to control anxiety  better today to see if RR decreases.
   Extra dose of ativan given, now trying a small 0.5 mg dose of morphine
   to see if anxiety is helped.  Will continue to monitor.  Will try to
   avoid intubation if possible.  If intubation is needed, would likely
   have tracheostomy placed quickly.
   - with fever and stable leukocytosis, most likely place of infection is
   lungs
 pna or emphysema.  Could have other source as well.  Today will
   do CT sinuses, CT chest/abd/pelvis for fever workup.
   - also rule out PE with CTA
   - sending beta glucan and galactomannan
   - starting impiric HAP treatment with vanco/zosyn, ID following.
   - continue diuresis with goal I/Os 500cc-1L negative with prn lasix
   doses-patient responds well to 20 mg boluses
   - continue albuterol and ipratropium treatments
   - continue cepacol
   - patient has now completed treatment for her known H. flu bacteremia
   with azithromycin, 7 day empiric course of meropenem and no clear
   source
   - Chest PT
   .
   2. Fever and Leukocytosis
 stable WBC, now with fever overnight.
   Unclear etiology for patient's fever and leukocytosis. Possible
   empyema, possible cholecystitis/cholangitis given elevated LFTs.  Blood
   cultures pending, urine cultures pending, Cdiff negative x 1.
   - CT scans as above
   - starting vanco/zosyn for HAP
   - thoracentesis if large fluid collection can be reached after CT scan
   completed
   - follow-up cultures, no obvious source yet
   - rule-out Cdiff with 2 additional tests, continuing impiric treatment
   with 14 d course of Flagyl,
   - RUQ neg for cholecystitis
   - LENIs negative
   - PICC removed, foley changed
   .
   3. Depression
   - seems to have worsening anxiety, will discuss with her psychiatrist
   any possible med changes
   - increasing prozac dose to 80 mg daily (up from 40 mg daily)
   -Continue Geodon
   - consider restarting Ritalin
   - Husband hinting at possible anorexia history-SW consult, and
   Nutrition for calorie counts, nutrition thinks she has adequate calorie
   intake for now.
   .
   FEN: Regular diet, Replete lytes
   Prophy: Heparin SQ, scheduled bowel regimen, PPI
   Access: PIVs
   Code: FULL CODE
   Communication: with patient and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-12-23**] 09:12 PM
   22 Gauge - [**2178-12-24**] 05:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-25 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-24**] events:
   - will get trach [**12-25**] with either IP or Thoracics
   - only tolerated propofol at 30mcg/hr, dropped pressures any higher
   - prelim cxs neg
   - spiked Temp to 101.7, blood cx taken
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Vancomycin - [**2178-12-24**] 07:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-12-25**] 02:06 AM
   Metronidazole - [**2178-12-25**] 04:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2178-12-24**] 08:00 AM
   Morphine Sulfate - [**2178-12-24**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2178-12-25**] 01:09 AM
   Pantoprazole (Protonix) - [**2178-12-25**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-25**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.7
C (98
   HR: 87 (85 - 103) bpm
   BP: 96/42(55) {89/37(49) - 118/60(73)} mmHg
   RR: 28 (23 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,343 mL
                                                                    341 mL
   PO:
             TF:
   IVF:
                                                                  1,223 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                    505 mL
   Urine:
                                                                  2,895 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,552 mL
                                                                   -164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   SpO2: 96%
   ABG: ///36/
   Ve: 11.7 L/min
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented x 3, patient able to follow commands
   despite sedation
   Labs / Radiology
   502 K/uL
   8.5 g/dL
   99 mg/dL
   0.3 mg/dL
   36 mEq/L
   3.0 mEq/L
   7 mg/dL
   93 mEq/L
   136 mEq/L
   27.0 %
   33.8 K/uL
        [image002.jpg]
                             [**2178-12-16**]  11:08 AM
                             [**2178-12-20**]  01:11 AM
                             [**2178-12-21**]  01:58 AM
                             [**2178-12-22**]  03:16 AM
                             [**2178-12-23**]  03:13 AM
                             [**2178-12-23**]  08:55 PM
                             [**2178-12-23**]  09:23 PM
                             [**2178-12-24**]  03:52 AM
                             [**2178-12-24**]  04:09 AM
                             [**2178-12-25**]  02:18 AM
   WBC
   16.9
   21.8
   28.0
   28.4
   27.5
   34.6
   31.3
   33.8
   Hct
   27.0
   24.0
   24.2
   23.6
   27.9
   29.0
   26.7
   27.0
   Plt
   879
   687
   630
   [**Telephone/Fax (3) **]
   489
   502
   Cr
   0.4
   0.3
   0.3
   0.4
   0.4
   0.4
   0.3
   TCO2
   32
   36
   Glucose
   126
   127
   108
   105
   109
   106
   99
   Other labs: PT / PTT / INR:15.9/24.8/1.4, CK / CKMB / Troponin-T:27//,
   ALT / AST:[**11-16**], Alk Phos / T Bili:131/0.2, Amylase / Lipase:78/41,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:2.0
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL,
   LDH:550 IU/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement. Patient acutely
   worsened overnight and is now requiring more vent support and sedation.
   .
   Hypoxia
 Patient had previously been stable on 4-5L NC and had an
   increase in her O2 requirement on arrival to MICU, but ARDS acutely
   worsened yesterday, concerning for HAP. Patient was started on
   vanc/zosyn. patient has now completed treatment for her known H. flu
   bacteremia with azithromycin, 7 day empiric course of meropenem. 1L
   exudative with many poly, removed from [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]. CT scan of sinuses,
   chest/abd/pelvis - clear sinuses, large pleural effusions, no PE.
   - tracheostomy placed this morning
   - beta glucan and galactomannan pending
   - to do left [**Female First Name (un) **] today
   - treated with vanc zosyn for two days and today spoke to ID and
   switched zosyn to meropenem. Would like to switch vanc to linezolid but
   not doing so because of concern for serotonin syndrome and VRE not
   confirmed.
   - continue diuresis with goal I/Os 500cc-1L negative with prn lasix
   doses-patient responds well to 20 mg boluses
   - stopping nebs
   - continue cepacol
   - Chest PT
   .
   2. Fever and Leukocytosis
WBC rising, now with fever overnight.
   Unclear etiology for patient's fever and leukocytosis. given elevated
   LFTs.  Blood cultures pending, urine cultures pending, Cdiff negative x
   1. CT scans no cholecystisits
   - will get echo eval for endocarditis
   - will do full skin exam
   - will see if there was an empyema on [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   - on vanc/meropenem, see above, d/c flagyl, no PO vanc, no cdiff
   - thoracentesis if large fluid collection can be reached after CT scan
   completed
   - follow-up cultures, no obvious source yet, will start FUO workup
   - RUQ neg for cholecystitis
   - LENIs negative
   - PICC removed, foley changed
   - sent mini BAL yesterday
   - did not bronch today
   - UCx shows enterococcus, pending speciation
   .
   3. Depression
   - seems to have worsening anxiety, will discuss with her psychiatrist
   any possible med changes
   - giving ativan as well
   - prozac dose to 80 mg daily
   -Continue Geodon
   - consider restarting Ritalin
   - Husband hinting at possible anorexia history-SW consult, and
   Nutrition for calorie counts, nutrition thinks she has adequate calorie
   intake for now.
   .
   FEN: NPO for now
   Prophy: Heparin SQ, scheduled bowel regimen, switched from PPI to
   randitine to reduce drug interactions
   Access: PIVs
   Code: FULL CODE
   Communication: with patient and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-12-23**] 09:12 PM
   22 Gauge - [**2178-12-24**] 05:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-26 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2178-12-25**] 08:30 AM
 THORACENTESIS - At [**2178-12-25**] 02:30 PM
 TRANSTHORACIC ECHO - At [**2178-12-25**] 03:00 PM
 ARTERIAL LINE - START [**2178-12-25**] 06:00 PM
   [**12-25**] events:
   - [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] was done with 500cc removed, not empyema, borderline exudate
   by LDH, just lots of poly, Gram stain none
   - VRE confirmed, switched from vanc to linezolid, spoke to ID and
   switched zosyn to meropenem
   - stopped cdiff tx, off flagyl
   - cardiac echo - no vegetations, worsening pHTN as expected
   - started tube feeds
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Metronidazole - [**2178-12-25**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2178-12-25**] 10:00 AM
   Vancomycin - [**2178-12-25**] 05:45 PM
   Linezolid - [**2178-12-25**] 09:00 PM
   Meropenem - [**2178-12-26**] 12:00 AM
   Infusions:
   Other ICU medications:
   Vecuronium - [**2178-12-25**] 08:30 AM
   Midazolam (Versed) - [**2178-12-25**] 02:30 PM
   Fentanyl - [**2178-12-25**] 02:30 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-26**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.7
   HR: 108 (83 - 113) bpm
   BP: 82/52(67) {82/42(60) - 113/52(331)} mmHg
   RR: 15 (9 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  3,343 mL
                                                                  1,359 mL
   PO:
             TF:
             385 mL
   IVF:
                                                                  3,078 mL
                                                                    894 mL
   Blood products:
   Total out:
                                                                    916 mL
                                                                    112 mL
   Urine:
                                                                    916 mL
                                                                    112 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,427 mL
                                                                  1,247 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 410 (410 - 410) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 30 cmH2O
   Plateau: 43 cmH2O
   SpO2: 98%
   ABG: 7.43/48/80.[**Numeric Identifier 20**]/32/6
   Ve: 17.5 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented x 3, patient able to follow commands
   despite sedation
   Labs / Radiology
   572 K/uL
   7.5 g/dL
   119 mg/dL
   0.3 mg/dL
   32 mEq/L
   3.8 mEq/L
   14 mg/dL
   102 mEq/L
   141 mEq/L
   23.2 %
   34.0 K/uL
        [image002.jpg]
                             [**2178-12-22**]  03:16 AM
                             [**2178-12-23**]  03:13 AM
                             [**2178-12-23**]  08:55 PM
                             [**2178-12-23**]  09:23 PM
                             [**2178-12-24**]  03:52 AM
                             [**2178-12-24**]  04:09 AM
                             [**2178-12-25**]  02:18 AM
                             [**2178-12-25**]  06:30 PM
                             [**2178-12-26**]  04:43 AM
                             [**2178-12-26**]  05:30 AM
   WBC
   28.4
   27.5
   34.6
   31.3
   33.8
   34.0
   Hct
   23.6
   27.9
   29.0
   26.7
   27.0
   23.2
   Plt
   [**Telephone/Fax (3) **]89
   502
   572
   Cr
   0.3
   0.4
   0.4
   0.4
   0.3
   0.3
   TCO2
   32
   36
   36
   33
   Glucose
   108
   105
   109
   106
   99
   119
   Other labs: PT / PTT / INR:14.2/24.9/1.2, CK / CKMB / Troponin-T:27//,
   ALT / AST:[**11-16**], Alk Phos / T Bili:131/0.2, Amylase / Lipase:78/41,
   Differential-Neuts:93.2 %, Band:0.0 %, Lymph:3.9 %, Mono:1.9 %, Eos:0.9
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:365 IU/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement. Patient acutely
   worsened overnight and is now requiring more vent support and sedation.
   .
   Hypoxia
 Patient had previously been stable on 4-5L NC and had an
   increase in her O2 requirement on arrival to MICU, but ARDS acutely
   worsened yesterday, concerning for HAP. Patient was started on
   vanc/zosyn. patient has now completed treatment for her known H. flu
   bacteremia with azithromycin, 7 day empiric course of meropenem. 1L
   exudative with many poly, removed from [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]. CT scan of sinuses,
   chest/abd/pelvis - clear sinuses, large pleural effusions, no PE.
   - tracheostomy placed this morning
   - beta glucan and galactomannan pending
   - to do left [**Female First Name (un) **] today
   - treated with vanc zosyn for two days and today spoke to ID and
   switched zosyn to meropenem. Would like to switch vanc to linezolid but
   not doing so because of concern for serotonin syndrome and VRE not
   confirmed.
   - continue diuresis with goal I/Os 500cc-1L negative with prn lasix
   doses-patient responds well to 20 mg boluses
   - stopping nebs
   - continue cepacol
   - Chest PT
   .
   2. Fever and Leukocytosis
WBC rising, now with fever overnight.
   Unclear etiology for patient's fever and leukocytosis. given elevated
   LFTs.  Blood cultures pending, urine cultures pending, Cdiff negative x
   1. CT scans no cholecystisits
   - will get echo eval for endocarditis
   - will do full skin exam
   - will see if there was an empyema on [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   - on vanc/meropenem, see above, d/c flagyl, no PO vanc, no cdiff
   - thoracentesis if large fluid collection can be reached after CT scan
   completed
   - follow-up cultures, no obvious source yet, will start FUO workup
   - RUQ neg for cholecystitis
   - LENIs negative
   - PICC removed, foley changed
   - sent mini BAL yesterday
   - did not bronch today
   - UCx shows enterococcus, pending speciation
   .
   3. Depression
   - seems to have worsening anxiety, will discuss with her psychiatrist
   any possible med changes
   - giving ativan as well
   - prozac dose to 80 mg daily
   -Continue Geodon
   - consider restarting Ritalin
   - Husband hinting at possible anorexia history-SW consult, and
   Nutrition for calorie counts, nutrition thinks she has adequate calorie
   intake for now.
   .
   FEN: NPO for now
   Prophy: Heparin SQ, scheduled bowel regimen, switched from PPI to
   randitine to reduce drug interactions
   Access: PIVs
   Code: FULL CODE
   Communication: with patient and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2178-12-26**] 12:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-12-23**] 09:12 PM
   22 Gauge - [**2178-12-24**] 05:49 AM
   Arterial Line - [**2178-12-25**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-26 12:03:00 Physician Attending Progress Note
Chief Complaint: Respiratory faiulre, pneumonia, VRE urinary tract
   infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient has had thoracenteses bilaterally with no evidence of empyema;
   both effusions exudative. Tmax 100.8
   Echo negative for valvular vegetations.
   Sedation being reduced.
   Patient on PSV; PEEP still at 8, FIO2=0.5.
   7.50/45/124 - ABG this AM.
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2178-12-25**] 08:30 AM
 THORACENTESIS - At [**2178-12-25**] 02:30 PM
 TRANSTHORACIC ECHO - At [**2178-12-25**] 03:00 PM
 ARTERIAL LINE - START [**2178-12-25**] 06:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Metronidazole - [**2178-12-25**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2178-12-25**] 10:00 AM
   Vancomycin - [**2178-12-25**] 05:45 PM
   Meropenem - [**2178-12-26**] 12:00 AM
   Linezolid - [**2178-12-26**] 09:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2178-12-25**] 02:30 PM
   Fentanyl - [**2178-12-25**] 02:30 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-26**] 12:00 AM
   Other medications:
   heparin sc, senna, MVI, nystatin cream, prosac, zantac, chlorhexidine,
   tylenol, trazadone, ativan, morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-26**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 105 (83 - 108) bpm
   BP: 80/53(68) {80/42(60) - 113/55(331)} mmHg
   RR: 37 (15 - 44) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  3,343 mL
                                                                  1,871 mL
   PO:
             TF:
             568 mL
   IVF:
                                                                  3,078 mL
                                                                  1,194 mL
   Blood products:
   Total out:
                                                                    916 mL
                                                                    167 mL
   Urine:
                                                                    916 mL
                                                                    167 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,427 mL
                                                                  1,704 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 423 (410 - 423) mL
   PS : 20 cmH2O
   RR (Set): 20
   RR (Spontaneous): 42
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 31 cmH2O
   Plateau: 43 cmH2O
   SpO2: 98%
   ABG: 7.43/48/80.[**Numeric Identifier 20**]/32/6
   Ve: 17 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Mild
   respiratory distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube, Trach
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Rhonchorous: Bilateral coarse large airway sounds)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+ edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   572 K/uL
   119 mg/dL
   0.3 mg/dL
   32 mEq/L
   3.8 mEq/L
   14 mg/dL
   102 mEq/L
   141 mEq/L
   23.2 %
   34.0 K/uL
        [image002.jpg]
                             [**2178-12-22**]  03:16 AM
                             [**2178-12-23**]  03:13 AM
                             [**2178-12-23**]  08:55 PM
                             [**2178-12-23**]  09:23 PM
                             [**2178-12-24**]  03:52 AM
                             [**2178-12-24**]  04:09 AM
                             [**2178-12-25**]  02:18 AM
                             [**2178-12-25**]  06:30 PM
                             [**2178-12-26**]  04:43 AM
                             [**2178-12-26**]  05:30 AM
   WBC
   28.4
   27.5
   34.6
   31.3
   33.8
   34.0
   Hct
   23.6
   27.9
   29.0
   26.7
   27.0
   23.2
   Plt
   [**Telephone/Fax (3) **]89
   502
   572
   Cr
   0.3
   0.4
   0.4
   0.4
   0.3
   0.3
   TCO2
   32
   36
   36
   33
   Glucose
   108
   105
   109
   106
   99
   119
   Other labs: PT / PTT / INR:14.2/24.9/1.2, CK / CKMB / Troponin-T:27//,
   ALT / AST:[**11-16**], Alk Phos / T Bili:131/0.2, Amylase / Lipase:78/41,
   Differential-Neuts:93.2 %, Band:0.0 %, Lymph:3.9 %, Mono:1.9 %, Eos:0.9
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:365 IU/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 .H/O ANXIETY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 PNEUMONIA, OTHER
   RESPIRATORY FAILURE
   ANEMIA
   PNEUMONIA
   VRE - URINARY TRACT INFECTION.
   During rounds, we reduced PSV to 5 and PEEP to 5. There was no change
   in minute ventilation, VT, or respiratory rate. Patient did not
   complain of any change in shortness of breath. I suspect patient has
   increased ventilation from stimulation of pulmonary receptors, possibly
   pulmonary fibrosis, and increased dead space (PaCO2 45 despite high
   minute ventilation, yet she also has an alkalemia). She may be able to
   sustain this ventilation on her own; if she tolerates PSV 5/5, would
   consider a trial on trach mask for a few hours later today. She looks
   nutritionally depleted and may require some time to build up strength
   and endurance of her ventilatory muscles to sustain herself off of the
   ventilator long term.
   Continues on antibiotics for presumed pneumonia and new VRE urinary
   tract infection.
   Hct down from 26 to 23, perhaps related to fluids. Not yet at
   transfusion threshold. Monitor stool guaiac.
   ICU Care
   Nutrition: Tube feeds
   Replete with Fiber (Full) - [**2178-12-26**] 12:00 AM 50 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2178-12-23**] 09:12 PM
   22 Gauge - [**2178-12-24**] 05:49 AM
   Arterial Line - [**2178-12-25**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2178-12-27 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - continued to spike temperatures during day/night, cultured
   - continues to hyperventilate, somewhat helped with ativan
   - received extra dose of ativan at night for sleep
   - rash forming new papules, consider derm consult in the AM
   - trach mask trial for approx 2 hours in the afternoon, then started to
   get slightly hypoxic and placed back on vent
   - approx 230 was moved, became tachy to 120s, diaphoretic, in general
   looked distressed, gas not much different, CXR worsening opacities,
   started on low dose lasix gtt
   - 1 U PRBCs for Hct 21 while getting lasix gtt
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Metronidazole - [**2178-12-25**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2178-12-25**] 10:00 AM
   Vancomycin - [**2178-12-25**] 05:45 PM
   Linezolid - [**2178-12-26**] 09:30 PM
   Meropenem - [**2178-12-27**] 03:43 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-12-27**] 12:29 AM
   Lorazepam (Ativan) - [**2178-12-27**] 05:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-27**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.9
C (98.4
   HR: 92 (88 - 119) bpm
   BP: 85/49(63) {68/44(58) - 125/70(90)} mmHg
   RR: 30 (20 - 47) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  3,285 mL
                                                                    696 mL
   PO:
           TF:
                                                                  1,202 mL
                                                                    346 mL
   IVF:
                                                                  1,794 mL
                                                                    109 mL
   Blood products:
   142 mL
   Total out:
                                                                    612 mL
                                                                    230 mL
   Urine:
                                                                    612 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,673 mL
                                                                    469 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 472 (423 - 599) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: RR >35
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.46/49/112/34/9
   Ve: 14.6 L/min
   PaO2 / FiO2: 187
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented x 3, patient able to follow commands
   despite sedation
   Labs / Radiology
   513 K/uL
   6.8 g/dL
   129 mg/dL
   0.2 mg/dL
   34 mEq/L
   3.5 mEq/L
   14 mg/dL
   103 mEq/L
   141 mEq/L
   21.0 %
   26.9 K/uL
        [image002.jpg]
                             [**2178-12-24**]  03:52 AM
                             [**2178-12-24**]  04:09 AM
                             [**2178-12-25**]  02:18 AM
                             [**2178-12-25**]  06:30 PM
                             [**2178-12-26**]  04:43 AM
                             [**2178-12-26**]  05:30 AM
                             [**2178-12-26**]  02:16 PM
                             [**2178-12-26**]  03:53 PM
                             [**2178-12-27**]  01:51 AM
                             [**2178-12-27**]  01:58 AM
   WBC
   31.3
   33.8
   34.0
   26.9
   Hct
   26.7
   27.0
   23.2
   21.0
   Plt
   489
   502
   572
   513
   Cr
   0.4
   0.3
   0.3
   0.2
   TCO2
   36
   36
   33
   35
   34
   36
   Glucose
   106
   99
   119
   129
   Other labs: PT / PTT / INR:14.8/24.5/1.3, CK / CKMB / Troponin-T:27//,
   ALT / AST:[**11-16**], Alk Phos / T Bili:131/0.2, Amylase / Lipase:78/41,
   Differential-Neuts:93.2 %, Band:0.0 %, Lymph:3.9 %, Mono:1.9 %, Eos:0.9
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:365 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement. Patient acutely
   worsened overnight and is now requiring more vent support and sedation.
   .
   # Hypoxia
 Patient had previously been stable on 4-5L NC and had an
   increase in her O2 requirement on arrival to MICU, but ARDS acutely
   worsened yesterday, concerning for HAP. Patient was started on
   vanc/zosyn. patient has now completed treatment for her known H. flu
   bacteremia with azithromycin, 7 day empiric course of meropenem. 1L
   exudative with many poly, removed from [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] and 500cc of same from L
   [**Female First Name (un) **].. CT scan of sinuses, chest/abd/pelvis - clear sinuses, large
   pleural effusions, no PE. Patient has trach in place, on PSV, weaning
   settings. Patient has high minute ventilation because of increased dead
   space.
   - will try trach mask for 45 minutes, 3 times today
   - will continue to diurese, + 2.5L yesterday, will try to concentrate
   fluid intake
   - beta glucan negative
   - continue cepacol
   - chest PT
   .
   # Fever and Leukocytosis
WBC rising, now with fever overnight.
   Unclear etiology for patient's fever and leukocytosis. given elevated
   LFTs.  Blood cultures NTD, [**Female First Name (un) 816**] in urine. Cardiac echo, no evidence of
   endocarditis. No evidence of empyemas on [**Female First Name (un) **], pan-scan negative.
   Stopped Flagyl for cdiff b/c not consistent with lab or clinical
   findings.
   - treated with vanc zosyn for two days and today spoke to ID and
   switched zosyn to meropenem. switched vanc to linezolid [**12-21**] [**Last Name (LF) 816**], [**First Name3 (LF) 124**]
   monitor for serotonin syndrome.
   - follow-up cultures, no obvious source yet
   - RUQ neg for cholecystitis
   - LENIs negative
   - PICC removed over a week ago
   - cxs NTD
   .
   # met alkalosis
 no vomiting
   - will give K to attempt to reduce.
   .
   #  Anemia
 in range from 23-27
   - will transfuse for less than 21
   .
   # Depression
   - seems to have worsening anxiety, will obtain in-house psych c/s
   - giving ativan as well
   - prozac dose to 80 mg daily
   -Continue Geodon
   - consider restarting Ritalin
   .
   # Rash: Pt with papular rash and occasional pustules on lower back,
   buttocks
 location, symptoms do not appear c/w drug reaction.  Likely
   contact dermatitis or fungal infection.
   - will continue nystatin cream
   - derm c/s today
   FEN: getting tube feeds, replete lytes PRN
   Prophy: Heparin SQ, scheduled bowel regimen, switched from PPI to
   randitine to reduce drug interactions
   Access: PIVs
   Code: FULL CODE
   Communication: with patient and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2178-12-26**] 11:58 PM 50 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2178-12-24**] 05:49 AM
   Arterial Line - [**2178-12-25**] 06:00 PM
   20 Gauge - [**2178-12-26**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-27 11:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Low grade fevers persist; cultures sent.
   Continued intermittent tachypnea. Tolerated brief trial of trach mask.
   This AM patient became tachycardic. CXR with worsening alveolar
   opacities. Lasix infusion started. Fluid balance had been positive
   yesterday by more than 2L.
   7.46/47/85 - ABG this AM.
   Transfused 1 unit of PRC's this morning as well.
   WBC down somewhat today.
   24 Hour Events:
 FEVER - 101.3
F - [**2178-12-26**] 05:00 PM
   History obtained from Medical records
   Patient unable to provide history: Intubated.
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Metronidazole - [**2178-12-25**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2178-12-25**] 10:00 AM
   Vancomycin - [**2178-12-25**] 05:45 PM
   Meropenem - [**2178-12-27**] 03:43 AM
   Linezolid - [**2178-12-27**] 08:26 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-12-27**] 08:30 AM
   Lorazepam (Ativan) - [**2178-12-27**] 09:00 AM
   Other medications:
   Senna, MVI, atrovent, colace, prosac, ranitidine, lasix, chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-27**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.1
C (98.8
   HR: 110 (88 - 119) bpm
   BP: 100/67(78) {68/44(58) - 125/79(93)} mmHg
   RR: 37 (20 - 47) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
           Total In:
                                                                  3,285 mL
                                                                  1,474 mL
   PO:
           TF:
                                                                  1,202 mL
                                                                    495 mL
   IVF:
                                                                  1,794 mL
                                                                    424 mL
   Blood products:
   375 mL
   Total out:
                                                                    612 mL
                                                                    680 mL
   Urine:
                                                                    612 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,673 mL
                                                                    794 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 472 (447 - 599) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: RR >35
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.46/49/112/34/9
   Ve: 14.6 L/min
   PaO2 / FiO2: 187
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, Anxious, No(t) Diaphoretic, Mild respiratory distress
   with accessory muscle use
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube,
   No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   Diastolic), Heart sounds largely obscured by breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: Coarse
   large airways sounds diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Rash: Buttocks - erthematous papules, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   513 K/uL
   129 mg/dL
   0.2 mg/dL
   34 mEq/L
   3.5 mEq/L
   14 mg/dL
   103 mEq/L
   141 mEq/L
   21.0 %
   26.9 K/uL
        [image002.jpg]
                             [**2178-12-24**]  03:52 AM
                             [**2178-12-24**]  04:09 AM
                             [**2178-12-25**]  02:18 AM
                             [**2178-12-25**]  06:30 PM
                             [**2178-12-26**]  04:43 AM
                             [**2178-12-26**]  05:30 AM
                             [**2178-12-26**]  02:16 PM
                             [**2178-12-26**]  03:53 PM
                             [**2178-12-27**]  01:51 AM
                             [**2178-12-27**]  01:58 AM
   WBC
   31.3
   33.8
   34.0
   26.9
   Hct
   26.7
   27.0
   23.2
   21.0
   Plt
   489
   502
   572
   513
   Cr
   0.4
   0.3
   0.3
   0.2
   TCO2
   36
   36
   33
   35
   34
   36
   Glucose
   106
   99
   119
   129
   Other labs: PT / PTT / INR:14.8/24.5/1.3, CK / CKMB / Troponin-T:27//,
   ALT / AST:[**11-16**], Alk Phos / T Bili:131/0.2, Amylase / Lipase:78/41,
   Differential-Neuts:93.2 %, Band:0.0 %, Lymph:3.9 %, Mono:1.9 %, Eos:0.9
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:365 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR: underpenetrated film. Probable worsening alveolar
   infiltrates.
   Assessment and Plan
 .H/O ANXIETY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RASH
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 PNEUMONIA, OTHER
   Patient continues to be tachypneic with stable ABGs; still is
   ventilating more than she needs to for her pH. CXR suggests some volume
   overload. Patient on lasix infusion. Try to achieve negative fluid
   balance today. Begin sprint/rest weaning protocol with 45 mins off the
   ventilator.
   Continues on broad spectrum antibiotics; will stop linezolid. WBC down
   slightly today, although low grade fevers persist.
   Metabolic alkalosis persists. Potassium being repleted.
   Psych consult today to assist in management of pt anxiety.
   Derm to see patient re: rash on back.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-12-27**] 09:15 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2178-12-24**] 05:49 AM
   Arterial Line - [**2178-12-25**] 06:00 PM
   20 Gauge - [**2178-12-26**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2178-12-28 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-27**] Events:
   - cont lasix gtt titrated to MAP > 55 (baseline, still making urine)
   - derm c/s for rash -> most likely contact dermatitis, rec
   triamcinolone
   - ID recs: obtain another [**Month/Day (4) 522**], keep meropenem/linezolid until final
   urine cx, check C-diff
   - short trach mask trials for 45 minutes at a time
   - art line resited to L radial
   - spiked temp at 21:33, pan-cx'd
 PICC LINE - START [**2178-12-27**] 01:06 PM
 WOUND CULTURE - At [**2178-12-27**] 01:38 PM
   derm consult, from back rash
 ARTERIAL LINE - STOP [**2178-12-27**] 06:00 PM
 ARTERIAL LINE - START [**2178-12-27**] 08:30 PM
 ARTERIAL LINE - STOP [**2178-12-27**] 09:59 PM
 BLOOD CULTURED - At [**2178-12-28**] 04:19 AM
 URINE CULTURE - At [**2178-12-28**] 04:19 AM
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-12-25**] 10:00 AM
   Vancomycin - [**2178-12-25**] 05:45 PM
   Linezolid - [**2178-12-27**] 09:00 PM
   Meropenem - [**2178-12-28**] 04:20 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-12-27**] 08:30 AM
   Lorazepam (Ativan) - [**2178-12-28**] 05:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-28**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (99
   HR: 100 (79 - 119) bpm
   BP: 108/59(70) {95/43(55) - 132/77(82)} mmHg
   RR: 34 (22 - 46) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  5,163 mL
                                                                    965 mL
   PO:
             TF:
                                                                  2,178 mL
                                                                    368 mL
   IVF:
                                                                  1,920 mL
                                                                    397 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,260 mL
                                                                  2,260 mL
   Urine:
                                                                  3,260 mL
                                                                  2,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,903 mL
                                                                 -1,295 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 443 (443 - 443) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: RR >35
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: 7.46/47/85.[**Numeric Identifier 299**]/43/8
   Ve: 11.7 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented x 3, patient able to follow commands
   despite sedation
   Labs / Radiology
   495 K/uL
   9.2 g/dL
   119 mg/dL
   0.3 mg/dL
   43 mEq/L
   2.8 mEq/L
   7 mg/dL
   95 mEq/L
   142 mEq/L
   26.8 %
   24.7 K/uL
        [image002.jpg]
                             [**2178-12-26**]  04:43 AM
                             [**2178-12-26**]  05:30 AM
                             [**2178-12-26**]  02:16 PM
                             [**2178-12-26**]  03:53 PM
                             [**2178-12-27**]  01:51 AM
                             [**2178-12-27**]  01:58 AM
                             [**2178-12-27**]  10:37 AM
                             [**2178-12-27**]  06:15 PM
                             [**2178-12-27**]  11:00 PM
                             [**2178-12-28**]  03:59 AM
   WBC
   34.0
   26.9
   31.8
   24.7
   Hct
   23.2
   21.0
   26.3
   26.8
   Plt
   572
   513
   591
   495
   Cr
   0.3
   0.2
   0.3
   0.3
   TCO2
   33
   35
   34
   36
   34
   Glucose
   119
   129
   127
   236
   119
   Other labs: PT / PTT / INR:13.2/23.3/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:[**10-5**], Alk Phos / T Bili:121/0.2, Amylase / Lipase:78/41,
   Differential-Neuts:93.2 %, Band:0.0 %, Lymph:3.9 %, Mono:1.9 %, Eos:0.9
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:259 IU/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement. Patient acutely
   worsened overnight and is now requiring more vent support and sedation.
   .
   # Hypoxia
 Patient had previously been stable on 4-5L NC and had an
   increase in her O2 requirement on arrival to MICU, but ARDS acutely
   worsened yesterday, concerning for HAP. Patient was started on
   vanc/zosyn. patient has now completed treatment for her known H. flu
   bacteremia with azithromycin, 7 day empiric course of meropenem. 1L
   exudative with many poly, removed from [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] and 500cc of same from L
   [**Female First Name (un) **].. CT scan of sinuses, chest/abd/pelvis - clear sinuses, large
   pleural effusions, no PE. Patient has trach in place, on PSV, weaning
   settings. Patient has high minute ventilation because of increased dead
   space. Patient continues to be tachypnic in the 30-40s with an element
   of anxiety. Changing sedation from propofol to versed and fentanyl.
   Patient appears to be heading down a path towards VATS, decortication,
   and wedge bx
   - reviewed all chest films with chest radiology attending
   - ID recs to repeat bronch
   - [**Female First Name (un) **] with pleural pressure to eval for rind
   - will check trigs and lactate from propofol sedation
   - trying CPAP when tolerated
   - will continue to diurese, on lasix drip, will try to concentrate
   fluid intake
   - beta glucan negative
   - continue cepacol
   - chest PT
   .
   # Fever and Leukocytosis
WBC rising, now with fever overnight.
   Unclear etiology for patient's fever and leukocytosis. given elevated
   LFTs.  Blood cultures NTD, [**Female First Name (un) 816**] in urine. Cardiac echo, no evidence of
   endocarditis. No evidence of empyemas on [**Female First Name (un) **], pan-scan negative.
   Stopped Flagyl for cdiff b/c not consistent with lab or clinical
   findings.
   - ID recs to repeat bronch, completed [**12-28**], no secretions
   - no peripheral eosinophillia, checking from [**Last Name (LF) 522**], [**First Name3 (LF) 124**] use to determine
   if a steroid candidate
   - derm c/s done, appears to be contact dermatitis
   - ID recs to continue linezolid until UCx negative, changing foley
   - treated with vanc zosyn for two days and today spoke to ID and
   switched zosyn to meropenem. switched vanc to linezolid [**12-21**] [**Last Name (LF) 816**], [**First Name3 (LF) 124**]
   monitor for serotonin syndrome.
   - follow-up cultures, no obvious source yet
   - RUQ neg for cholecystitis
   - LENIs negative
   - PICC removed over a week ago
   - cxs NTD
   .
   # met alkalosis
 no vomiting
   -          will give K to attempt to reduce.
   -          Starting diamox
   .
   #  Anemia
 in range from 23-27
   - will transfuse for less than 21
   .
   # Depression
   - seems to have worsening anxiety, will obtain in-house psych c/s
   - giving ativan as well
   - prozac dose to 80 mg daily
   -Continue Geodon
   - consider restarting Ritalin
   .
   # Rash: Pt with papular rash and occasional pustules on lower back,
   buttocks
 location, symptoms do not appear c/w drug reaction.  Likely
   contact dermatitis or fungal infection.
   - will continue nystatin cream
   - derm c/s today
   FEN: getting tube feeds, replete lytes PRN
   Prophy: Heparin SQ, scheduled bowel regimen, switched from PPI to
   randitine to reduce drug interactions
   Access: PIVs
   Code: FULL CODE
   Communication: with patient and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2178-12-27**] 12:57 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-27**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-29 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-28**] Events:
   - patient seen by private psychologist
   - given acetazolamide for metabolic alkalosis
   - changed foley per ID recs
   - changed sedation to fent/versed, but off all sedation overnight
   - repeat bronch showed no secretions of PNA, ID notified, no new recs
   - patient able to sit up on bedside for chest PT
   - dead space was calculated to be 84%
 BRONCHOSCOPY - At [**2178-12-28**] 03:00 PM
   RLL and RML samples sent
 FEVER - 101.6
F - [**2178-12-28**] 08:00 AM
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Linezolid - [**2178-12-28**] 09:05 AM
   Meropenem - [**2178-12-29**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2178-12-28**] 01:00 PM
   Fentanyl - [**2178-12-28**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-12-28**] 11:45 PM
   Lorazepam (Ativan) - [**2178-12-29**] 05:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-29**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.4
C (97.5
   HR: 88 (81 - 104) bpm
   BP: 108/50(64) {91/40(50) - 130/66(81)} mmHg
   RR: 26 (0 - 41) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,412 mL
                                                                    536 mL
   PO:
             TF:
                                                                  1,194 mL
                                                                    199 mL
   IVF:
                                                                  1,518 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  6,240 mL
                                                                    840 mL
   Urine:
                                                                  6,240 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,828 mL
                                                                   -304 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 11 cmH2O
   Plateau: 29 cmH2O
   Compliance: 19 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/68/191/37/21
   Ve: 11.9 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented x 3, patient able to follow commands
   despite sedation
   Labs / Radiology
   511 K/uL
   8.9 g/dL
   126 mg/dL
   0.3 mg/dL
   37 mEq/L
   3.4 mEq/L
   11 mg/dL
   100 mEq/L
   141 mEq/L
   27.0 %
   26.1 K/uL
         [image002.jpg]
                             [**2178-12-26**]  03:53 PM
                             [**2178-12-27**]  01:51 AM
                             [**2178-12-27**]  01:58 AM
                             [**2178-12-27**]  10:37 AM
                             [**2178-12-27**]  06:15 PM
                             [**2178-12-27**]  11:00 PM
                             [**2178-12-28**]  03:59 AM
                             [**2178-12-28**]  04:46 PM
                             [**2178-12-28**]  05:26 PM
                             [**2178-12-29**]  03:00 AM
   WBC
   26.9
   31.8
   24.7
   26.1
   Hct
   21.0
   26.3
   26.8
   27.0
   Plt
   [**Telephone/Fax (3) 4550**]11
   Cr
   0.2
   0.3
   0.3
   0.4
   0.3
   TCO2
   34
   36
   34
   50
   Glucose
   129
   127
   236
   119
   169
   126
   Other labs: PT / PTT / INR:13.5/24.6/1.2, CK / CKMB / Troponin-T:27//,
   ALT / AST:[**10-5**], Alk Phos / T Bili:121/0.2, Amylase / Lipase:78/41,
   Differential-Neuts:91.6 %, Band:0.0 %, Lymph:5.1 %, Mono:1.6 %, Eos:1.7
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:259 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement. Patient acutely
   worsened overnight and is now requiring more vent support and sedation.
   .
   # ARDS
 Currently does not meet P/F ratio criteria and does not have
   typical pattern. Patient has documented dead space of 84%. Patient had
   completed a course of treatment for known H. flu bacteremia with
   azithromycin, 7 day empiric course of meropenem. After worsening around
   [**12-20**], patient was started on vanc/zosyn. On [**12-24**] and [**12-25**] [**Female First Name (un) **] was done
   bilaterally for concern of empyema. Patient was trached on [**12-25**]. Patient
   continues to be tachypnic in the 30-40s with an element of anxiety.
   Sedation was switched from propofol to versed and fentanyl. Multiple
   bronchs have been done and there does not appear to be a current PNA
   since there are not any secretions. Concern for inflammatory causes
   less in the setting of no bronchial fluid or peripheral eosinophillia.
   Differential includes infectious cause vs. BOOP. There has been a poor
   response to antbiotics and no secretions on bronch argues against PNA.
   Patients peribroncholar vascular pattern could be consistent with BOOP
   over typical ARDS picture. BOOP would require treatment with steroids
   and until clear diagnosis is made difficult to justify steroids in the
   setting of possible infectious cause. Differentiation of the etiologies
   of the ARDS would require tissue bx. This would require VATS but the
   patient does not have enough lung reserve to take down one lung for the
   procedure. The patient clinical resp pattern is consistent with
   pulmonary fibrosis vs. rind.
   - consulting IP for R thoracentesis for pigtail cath placement
   - will check trigs and lactate from propofol sedation
   - will continue to diurese, on lasix drip, concentrating tube feeds and
   fluids
   - beta glucan negative
   - continue cepacol
   - chest PT, patient able to tolerate
   .
   # Fever and Leukocytosis
WBC stable Unclear etiology for patient's
   fever and leukocytosis. given elevated LFTs.  Blood cultures NTD, [**Month/Day (4) 816**]
   in urine. Cardiac echo, no evidence of endocarditis. No evidence of
   empyemas on [**Female First Name (un) **], pan-scan negative. Stopped Flagyl for cdiff b/c not
   consistent with lab or clinical findings. Derm bx was consistent with
   fungal infection and their recs were to give a week off Fluconazole.
   - ID following
   - no peripheral eosinophillia or bronchial fluid eosinophillia
   - ID recs to continue linezolid for [**Female First Name (un) 816**], day of [**2-23**]
   - treated with vanc zosyn for two days and today spoke to ID and
   switched zosyn to meropenem. switched vanc to linezolid [**12-21**] [**Last Name (LF) 816**], [**First Name3 (LF) 124**]
   monitor for serotonin syndrome.
   - d/c meropenem today, after 4d of treatment since no significant
   improvement
   - follow-up cultures, no obvious source yet
   - RUQ neg for cholecystitis
   - LENIs negative
   - changed foley multiple times
   - cxs NTD
   .
   # met alkalosis
 no vomiting
   -          will give K to attempt to reduce.
   -          giving diamox
   .
   #  Anemia
 in range from 23-27
   - will transfuse for less than 21
   .
   # Depression
   - seems to have worsening anxiety, will obtain in-house psych c/s
   - giving ativan as well
   - prozac dose to 80 mg daily
   -Continue Geodon
   - consider restarting Ritalin
   .
   # Rash: Pt with papular rash and occasional pustules on lower back,
   buttocks
 location, symptoms do not appear c/w drug reaction.  Likely
   contact dermatitis or fungal infection.
   - will continue nystatin cream
   - derm c/s today
   FEN: getting tube feeds, replete lytes PRN
   Prophy: Heparin SQ, scheduled bowel regimen, switched from PPI to
   randitine to reduce drug interactions
   Access: PIVs
   Code: FULL CODE
   Communication: with patient and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   [**Name (NI) 1465**] 2.0 (Full) - [**2178-12-28**] 11:38 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-27**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-30 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - decided against VATS because of associated risks
   - stopped meropenem today
   - derm called, dx cutaenous candidiasis - tx can be ecanazole cream [**Hospital1 **]
   for 14 days or fluconazole 200 mg daily for 7 days; stopped all topical
   steroids
   - consider speech and swallow to see if any way to eat with trach
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Linezolid - [**2178-12-28**] 09:05 AM
   Meropenem - [**2178-12-29**] 04:03 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-12-30**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-30**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 88 (80 - 99) bpm
   BP: 114/59(72) {95/47(60) - 125/70(81)} mmHg
   RR: 31 (11 - 40) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,632 mL
                                                                    324 mL
   PO:
             TF:
                                                                    603 mL
                                                                    180 mL
   IVF:
                                                                    879 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                    670 mL
   Urine:
                                                                  2,640 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,008 mL
                                                                   -346 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///36/
   Ve: 11.5 L/min
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented x 3, patient able to follow commands
   despite sedation
   Labs / Radiology
   604 K/uL
   8.8 g/dL
   118 mg/dL
   0.3 mg/dL
   36 mEq/L
   4.0 mEq/L
   13 mg/dL
   103 mEq/L
   143 mEq/L
   27.2 %
   24.5 K/uL
        [image002.jpg]
                             [**2178-12-27**]  01:58 AM
                             [**2178-12-27**]  10:37 AM
                             [**2178-12-27**]  06:15 PM
                             [**2178-12-27**]  11:00 PM
                             [**2178-12-28**]  03:59 AM
                             [**2178-12-28**]  04:46 PM
                             [**2178-12-28**]  05:26 PM
                             [**2178-12-29**]  03:00 AM
                             [**2178-12-29**]  07:10 PM
                             [**2178-12-30**]  02:27 AM
   WBC
   26.9
   31.8
   24.7
   26.1
   24.5
   Hct
   21.0
   26.3
   26.8
   27.0
   27.2
   Plt
   [**Telephone/Fax (3) 4550**]11
   604
   Cr
   0.2
   0.3
   0.3
   0.4
   0.3
   0.4
   0.3
   TCO2
   34
   50
   Glucose
   129
   127
   236
   119
   169
   126
   129
   118
   Other labs: PT / PTT / INR:13.9/25.1/1.2, CK / CKMB / Troponin-T:27//,
   ALT / AST:[**10-5**], Alk Phos / T Bili:121/0.2, Amylase / Lipase:78/41,
   Differential-Neuts:91.6 %, Band:0.0 %, Lymph:5.1 %, Mono:1.6 %, Eos:1.7
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:259 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement.
   .
   # ARDS
 Currently does not meet P/F ratio criteria and does not have
   typical pattern. Patient has documented dead space of 84%. Patient had
   completed a course of treatment for known H. flu bacteremia with
   azithromycin, 7 day empiric course of meropenem. After worsening around
   [**12-20**], patient was started on vanc/zosyn. On [**12-24**] and [**12-25**] [**Female First Name (un) **] was done
   bilaterally for concern of empyema. Patient was trached on [**12-25**]. Patient
   continues to be tachypneic in the 30-40s with an element of anxiety.
   Sedation was switched from propofol to versed and fentanyl. Multiple
   bronchs have been done and there does not appear to be a current PNA
   since there are not any secretions. Concern for inflammatory causes
   less in the setting of no bronchial fluid or peripheral eosinophillia.
   Differential includes infectious cause vs. BOOP. There has been a poor
   response to antbiotics and no secretions on bronch argues against PNA.
   Patients peribroncholar vascular pattern could be consistent with BOOP
   over typical ARDS picture. BOOP would require treatment with steroids
   and until clear diagnosis is made difficult to justify steroids in the
   setting of possible infectious cause. Differentiation of the etiologies
   of the ARDS would require tissue bx. This would require VATS but the
   patient does not have enough lung reserve to take down one lung for the
   procedure. The patient
s clinical resp pattern is consistent with
   pulmonary fibrosis vs. rind.
   - IP did not feel thoracentesis would be beneficial
   - will check trigs and lactate from propofol sedation
   - will continue to diurese, on lasix drip, concentrating tube feeds and
   fluids
   - beta glucan negative
   - continue cepacol
   - chest PT, patient able to tolerate
   .
   # Fever and Leukocytosis
WBC stable, unclear etiology for patient's
   fever and leukocytosis.  Blood cultures NTD, VRE in urine but not
   likely source of infection. Cardiac echo, no evidence of endocarditis.
   No evidence of empyemas on [**Female First Name (un) **], pan-scan negative. Stopped Flagyl for
   cdiff b/c not consistent with lab or clinical findings.  Bilateral
   thoracentesis with no infectious organism identified.  Derm bx was
   consistent with fungal infection and their recs were to give a week of
   Fluconazole.
   - ID following
   - no peripheral eosinophillia or bronchial fluid eosinophillia
   - ID recs to continue linezolid, day of [**3-25**]
   - follow-up cultures, no obvious source yet
   - RUQ neg for cholecystitis
   - LENIs negative
   - changed foley multiple times
   - cxs NTD
   .
   # met alkalosis
 no vomiting
   -          will give K to attempt to reduce.
   -          giving diamox
   .
   #  Anemia
 in range from 23-27
   - will transfuse for less than 21
   .
   # Depression
   - seems to have worsening anxiety, will obtain in-house psych c/s
   - giving ativan as well
   - prozac dose to 80 mg daily
   -Continue Geodon
   - consider restarting Ritalin
   .
   # Rash: Pt with papular rash and occasional pustules on lower back,
   buttocks
 location, symptoms do not appear c/w drug reaction.  Likely
   contact dermatitis or fungal infection.
   - c/w cutaneous candidiasis -> tx with fluconazole for 1 wk
   FEN: getting tube feeds, replete lytes PRN
   Prophy: Heparin SQ, scheduled bowel regimen, switched from PPI to
   randitine to reduce drug interactions
   Access: PIVs
   Code: FULL CODE
   Communication: with patient and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   [**Name (NI) 1465**] 2.0 (Full) - [**2178-12-29**] 06:42 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-27**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-12-31 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-30**] Events:
   - tolerated Passy-Muir Valve (PMV) on PSV 5/5
   - S&S eval -> will do formal bedside swallow eval when tolerates longer
   trials of PMV
   - tolerated longer periods of PSV 5/5
   - "rested" overnight on AC with Ativan
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Linezolid - [**2178-12-28**] 09:05 AM
   Meropenem - [**2178-12-29**] 04:03 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-12-30**] 04:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-12-31**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 109 (80 - 109) bpm
   BP: 130/65(81) {98/47(60) - 130/69(81)} mmHg
   RR: 31 (15 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  1,316 mL
                                                                    395 mL
   PO:
             TF:
                                                                    602 mL
                                                                    176 mL
   IVF:
                                                                    470 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                    450 mL
   Urine:
                                                                  2,170 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -854 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///43/
   Ve: 11.1 L/min
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented
   Labs / Radiology
   688 K/uL
   9.2 g/dL
   141
   0.3 mg/dL
   43 mEq/L
   4.0 mEq/L
   14 mg/dL
   100 mEq/L
   146 mEq/L
   28.4 %
   25.5 K/uL
        [image002.jpg]
                             [**2178-12-28**]  03:59 AM
                             [**2178-12-28**]  04:46 PM
                             [**2178-12-28**]  05:26 PM
                             [**2178-12-29**]  03:00 AM
                             [**2178-12-29**]  07:10 PM
                             [**2178-12-30**]  02:27 AM
                             [**2178-12-30**]  03:58 PM
                             [**2178-12-30**]  10:00 PM
                             [**2178-12-31**]  03:09 AM
                             [**2178-12-31**]  04:00 AM
   WBC
   24.7
   26.1
   24.5
   25.5
   Hct
   26.8
   27.0
   27.2
   28.4
   Plt
   495
   511
   604
   688
   Cr
   0.3
   0.4
   0.3
   0.4
   0.3
   0.3
   0.3
   TCO2
   50
   Glucose
   119
   169
   126
   129
   118
   122
   158
   111
   141
   Other labs: PT / PTT / INR:13.5/22.8/1.2, CK / CKMB / Troponin-T:27//,
   ALT / AST:[**10-5**], Alk Phos / T Bili:121/0.2, Amylase / Lipase:78/41,
   Differential-Neuts:89.4 %, Band:0.0 %, Lymph:6.2 %, Mono:2.3 %, Eos:1.9
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:259 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement, afebrile for
   past three days.
   .
   # ARDS
 Currently does not meet P/F ratio criteria and does not have
   typical pattern. Patient has documented dead space of 84%. Patient had
   completed a course of treatment for known H. flu bacteremia with
   azithromycin, 7 day empiric course of meropenem. After worsening around
   [**12-20**], patient was started on vanc/zosyn. On [**12-24**] and [**12-25**] [**Female First Name (un) **] was done
   bilaterally for concern of empyema. Patient was trached on [**12-25**]. Patient
   continues to be tachypneic in the 30-40s with an element of anxiety.
   Sedation was switched from propofol to versed and fentanyl. Multiple
   bronchs have been done and there does not appear to be a current PNA
   since there are not any secretions. Concern for inflammatory causes
   less in the setting of no bronchial fluid or peripheral eosinophillia.
   Differential includes infectious cause vs. BOOP. There has been a poor
   response to antbiotics and no secretions on bronch argues against PNA.
   Patients peribroncholar vascular pattern could be consistent with BOOP
   over typical ARDS picture. BOOP would require treatment with steroids
   and until clear diagnosis is made difficult to justify steroids in the
   setting of possible infectious cause. Differentiation of the etiologies
   of the ARDS would require tissue bx. This would require VATS but the
   patient does not have enough lung reserve to take down one lung for the
   procedure. The patient
s clinical resp pattern is consistent with
   pulmonary fibrosis vs. rind. Patient got PSV valve placed on [**12-30**], resp
   status improving. Dead space 82% from 84%.
   - IP did not feel thoracentesis would be beneficial
   - stopped diuresis
   - will continue to try short trials of CPAP/PSV
   - speech trial and eval by S&S today
   - will discuss pHTN treatment
   - will continue to try to increase amount of time on PSV
   .
   # Fever and Leukocytosis
WBC stable, unclear etiology for patient's
   fever and leukocytosis.  Blood cultures NTD, VRE in urine but not
   likely source of infection. Cardiac echo, no evidence of endocarditis.
   No evidence of empyemas on [**Female First Name (un) **], pan-scan negative. Stopped Flagyl for
   cdiff b/c not consistent with lab or clinical findings.  Bilateral
   thoracentesis with no infectious organism identified.  Derm bx was
   consistent with fungal infection and their recs were to give a week of
   Fluconazole.  Will consider PO vanc if spikes T tonight.
   - ID following, rechecking c diff
   - no peripheral eosinophillia or bronchial fluid eosinophillia
   - ID recs to continue linezolid, day of [**3-25**]
   - follow-up cultures, no obvious source yet
   - urine grew yeast and wound [**Female First Name (un) 474**] albicans
   .
   # met alkalosis
 no vomiting
   -          will give K to attempt to reduce.
   -          .
   #  Anemia
 in range from 23-27
   - will transfuse for less than 21
   .
   # Depression
 Dr. [**Last Name (STitle) 4588**] to see today (outpt psych)
   - seems to have worsening anxiety, will obtain in-house psych c/s
   - giving ativan as well
   - prozac dose to 80 mg daily
   -Continue Geodon
   - consider restarting Ritalin
   .
   # Rash: Pt with papular rash and occasional pustules on lower back,
   buttocks
 location, symptoms do not appear c/w drug reaction.  Likely
   contact dermatitis or fungal infection.
   - c/w cutaneous candidiasis -> tx with fluconazole for 1 wk
   # dispo
 not ready for rehab at this time, still doing workup, want to
   see improvement in white count and determine source of infection or
   give steroid trial
   FEN: getting tube feeds, replete lytes PRN
   - nutrition does not want to increase feeds until CO2 increase can be
   sure
   Prophy: Heparin SQ, scheduled bowel regimen, switched from PPI to
   randitine to reduce drug interactions
   Access: PIVs
   Code: FULL CODE
   Communication: with patient and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   [**Name (NI) 1465**] 2.0 (Full) - [**2178-12-30**] 01:49 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-27**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-01-01 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2178-12-31**] 03:28 PM
   for ? c-diff
   [**12-31**] Events:
   - on PSV all day yesterday
   - d/c'ed lasix drip to clinical evidence of hypovolemia
   - nutrition did not want to increase tube feeds because of increased
   CO2 load, said can be done if metabolic CO2 calculations done by
   respiratory
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Meropenem - [**2178-12-29**] 04:03 PM
   Linezolid - [**2178-12-31**] 08:52 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-1-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-1-1**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 87 (69 - 94) bpm
   BP: 123/70(82) {93/48(58) - 127/79(83)} mmHg
   RR: 29 (19 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,573 mL
                                                                    355 mL
   PO:
             TF:
                                                                    608 mL
                                                                    181 mL
   IVF:
                                                                    304 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    240 mL
   Urine:
                                                                  1,340 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    233 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 432 (432 - 432) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 127
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.48/62/122/42/19
   Ve: 13.4 L/min
   PaO2 / FiO2: 244
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes, rash
   improved
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented
   Labs / Radiology
   583 K/uL
   8.8 g/dL
   123 mg/dL
   0.3 mg/dL
   42 mEq/L
   3.8 mEq/L
   15 mg/dL
   100 mEq/L
   144 mEq/L
   27.1 %
   21.5 K/uL
        [image002.jpg]
                             [**2178-12-28**]  05:26 PM
                             [**2178-12-29**]  03:00 AM
                             [**2178-12-29**]  07:10 PM
                             [**2178-12-30**]  02:27 AM
                             [**2178-12-30**]  03:58 PM
                             [**2178-12-30**]  10:00 PM
                             [**2178-12-31**]  03:09 AM
                             [**2178-12-31**]  04:00 AM
                             [**2178-12-31**]  01:51 PM
                             [**2179-1-1**]  02:44 AM
   WBC
   26.1
   24.5
   25.5
   21.5
   Hct
   27.0
   27.2
   28.4
   27.1
   Plt
   [**Telephone/Fax (3) 4641**]83
   Cr
   0.4
   0.3
   0.4
   0.3
   0.3
   0.3
   0.3
   TCO2
   47
   Glucose
   169
   126
   129
   118
   122
   158
   111
   141
   123
   Other labs: PT / PTT / INR:13.1/22.2/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:[**10-5**], Alk Phos / T Bili:121/0.2, Amylase / Lipase:78/41,
   Differential-Neuts:89.4 %, Band:0.0 %, Lymph:6.2 %, Mono:2.3 %, Eos:1.9
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:259 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement, afebrile for
   past four days.
   .
   # ARDS
 Currently does not meet P/F ratio criteria and does not have
   typical pattern. Patient has documented dead space of 84%. Patient had
   completed a course of treatment for known H. flu bacteremia with
   azithromycin, 7 day empiric course of meropenem. After worsening around
   [**12-20**], patient was started on vanc/zosyn. On [**12-24**] and [**12-25**] [**Female First Name (un) **] was done
   bilaterally for concern of empyema. Patient was trached on [**12-25**]. Patient
   continues to be tachypneic in the 30-40s with an element of anxiety.
   Sedation was switched from propofol to versed and fentanyl. Multiple
   bronchs have been done and there does not appear to be a current PNA
   since there are not any secretions. Concern for inflammatory causes
   less in the setting of no bronchial fluid or peripheral eosinophillia.
   Differential includes infectious cause vs. BOOP. There has been a poor
   response to antbiotics and no secretions on bronch argues against PNA.
   Patients peribroncholar vascular pattern could be consistent with BOOP
   over typical ARDS picture. BOOP would require treatment with steroids
   and until clear diagnosis is made difficult to justify steroids in the
   setting of possible infectious cause. Differentiation of the etiologies
   of the ARDS would require tissue bx. This would require VATS but the
   patient does not have enough lung reserve to take down one lung for the
   procedure. The patient
s clinical resp pattern is consistent with
   pulmonary fibrosis vs. rind. IP did not feel thoracentesis would be
   beneficial. Patient got PSV valve placed on [**12-30**], resp status
   improving. Dead space 82% from 84%.
          Continue periods of PMV
   with PSV 5/5, avoiding resp fatigue.
   - stopped diuresis
   - patient would not be a good candidate for vasodialtors such as
   slidenafil or NO
   - tolerating Pessy, and PSV
   .
   # Fever and Leukocytosis
WBC stable, unclear etiology for patient's
   fever and leukocytosis.  Blood cultures NTD, VRE in urine but not
   likely source of infection. Cardiac echo, no evidence of endocarditis.
   No evidence of empyemas on [**Female First Name (un) **], pan-scan negative. Stopped Flagyl for
   cdiff b/c not consistent with lab or clinical findings.  Bilateral
   thoracentesis with no infectious organism identified.  Derm bx was
   consistent with fungal infection and their recs were to give a week of
   Fluconazole.  Will consider PO vanc if spikes T tonight.
   - ID following, negative c diff
   - Last day of linezolid, fluconazole ends [**1-3**]
   - no peripheral eosinophillia or bronchial fluid eosinophillia
   - follow-up cultures, no obvious source yet
   - urine grew yeast and wound [**Female First Name (un) 474**] albicans
   - changing foley today
   .
   # met alkalosis
 no vomiting
   -          will give K to attempt to reduce.
   -          .
   #  Anemia
 in range from 23-27
   - will transfuse for less than 21
   .
   # Depression
 followed by  (outpt psych)
   - giving ativan as well
   - prozac dose to 80 mg daily
   -Continue Geodon
   - consider restarting Ritalin
   .
   # Rash: Pt with papular rash and occasional pustules on lower back,
   buttocks
 location, symptoms do not appear c/w drug reaction.  Likely
   contact dermatitis or fungal infection.
   - c/w cutaneous candidiasis -> tx with fluconazole for 1 wk
   # FEN: getting tube feeds, replete lytes PRN, patient has Severe
   cachexia
   -          nutrition does not want to increase feeds until CO2 increase
   can be sure
   -          Speech consult will do swallow eval when tolerating PSV 5/5
   with PMV for longer periods
   Prophy: Heparin SQ, scheduled bowel regimen, switched from PPI to
   randitine to reduce drug interactions
   Access: has PICC
   Code: FULL CODE
   Dispo
 getting ready for transfer to rehab
   Communication: with patient and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   [**Name (NI) 1465**] 2.0 (Full) - [**2179-1-1**] 03:34 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-27**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Persistent respiratory failure-- fibrotic stage of ARDS. PAH. Markedly
   elevated dead space ventilation. Respiratory status seems to be
   slightly improved..
   I doubt that there is a secondary, treatable process, but the
   peribronchovascular distribution of parenchymal opacities on chest CT
   makes BOOP a consideration.
   From infection standpoint, doing well, afebrile x 4d, WBC trending
   down.
   Plan:
     * I

2179-01-02 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - nutrition recommended increasing TFs by 5 cc/hr for extra calories
   - plan to not try steroids or sidenafil at this time
   - possible transition to rehab on Sunday
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Linezolid - [**2178-12-31**] 08:52 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-1-2**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 90 (73 - 93) bpm
   BP: 126/74(86) {102/48(56) - 128/101(105)} mmHg
   RR: 26 (18 - 41) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  2,001 mL
                                                                    771 mL
   PO:
                                                                    400 mL
           TF:
                                                                    626 mL
                                                                    220 mL
   IVF:
                                                                    329 mL
                                                                     73 mL
   Blood products:
                                                                     47 mL
                                                                    328 mL
   Total out:
                                                                  1,160 mL
                                                                    270 mL
   Urine:
                                                                  1,160 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    841 mL
                                                                    501 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 451 (385 - 451) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 61
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///39/
   Ve: 8.8 L/min
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes, rash
   improved
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented
   Labs / Radiology
   682 K/uL
   11.0 g/dL
   114 mg/dL
   0.3 mg/dL
   39 mEq/L
   4.0 mEq/L
   13 mg/dL
   99 mEq/L
   141 mEq/L
   31.6 %
   23.8 K/uL
        [image002.jpg]
                             [**2178-12-29**]  03:00 AM
                             [**2178-12-29**]  07:10 PM
                             [**2178-12-30**]  02:27 AM
                             [**2178-12-30**]  03:58 PM
                             [**2178-12-30**]  10:00 PM
                             [**2178-12-31**]  03:09 AM
                             [**2178-12-31**]  04:00 AM
                             [**2178-12-31**]  01:51 PM
                             [**2179-1-1**]  02:44 AM
                             [**2179-1-2**]  04:09 AM
   WBC
   26.1
   24.5
   25.5
   21.5
   23.8
   Hct
   27.0
   27.2
   28.4
   27.1
   31.6
   Plt
   [**Telephone/Fax (3) 4641**]83
   682
   Cr
   0.3
   0.4
   0.3
   0.3
   0.3
   0.3
   0.3
   TCO2
   47
   Glucose
   126
   129
   118
   122
   158
   111
   141
   123
   114
   Other labs: PT / PTT / INR:13.2/24.3/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:[**10-5**], Alk Phos / T Bili:121/0.2, Amylase / Lipase:78/41,
   Differential-Neuts:89.4 %, Band:0.0 %, Lymph:6.2 %, Mono:2.3 %, Eos:1.9
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:259 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement, afebrile for
   past four days.
   .
   # ARDS
 Patient has documented dead space of 84%. Patient had
   completed a course of treatment for known H. flu bacteremia with
   azithromycin, 7 day empiric course of meropenem. After worsening around
   [**12-20**], patient was started on vanc/zosyn. On [**12-24**] and [**12-25**] [**Female First Name (un) **] was done
   bilaterally for concern of empyema. Patient was trached on [**12-25**]. Patient
   continues to be tachypneic in the 30-40s with an element of anxiety.
   Multiple bronchs have been done and there does not appear to be a
   current PNA since there are not any secretions. Concern for
   inflammatory causes less in the setting of no bronchial fluid or
   peripheral eosinophillia. Differential includes infectious cause vs.
   BOOP. There has been a poor response to antbiotics and no secretions on
   bronch argues against PNA. Patients peribronchovascular pattern could
   be consistent with BOOP over typical ARDS picture. BOOP would require
   treatment with steroids and until clear diagnosis is made difficult to
   justify steroids in the setting of possible infectious cause.
   Differentiation of the etiologies of the ARDS would require tissue bx.
   This would require VATS but the patient does not have enough lung
   reserve to take down one lung for the procedure. The patient
s clinical
   resp pattern is consistent with pulmonary fibrosis vs. rind. IP did not
   feel thoracentesis would be beneficial. Patient got PSV valve placed on
   [**12-30**], resp status improving.
   - Continue periods of PMV, trach mask and PSV 5/5, avoiding resp
   fatigue
   - patient would not be a good candidate for vasodialtors such as
   slidenafil or NO
   - will not tx with steroids
   .
   # Fever and Leukocytosis
 WBC stable, unclear etiology for patient's
   fever and leukocytosis.  Blood cultures NTD, VRE in urine but not
   likely source of infection. Cardiac echo, no evidence of endocarditis.
   No evidence of empyemas on [**Female First Name (un) **], pan-scan negative. Stopped Flagyl for
   cdiff b/c not consistent with lab or clinical findings.  Bilateral
   thoracentesis with no infectious organism identified.  Derm bx was
   consistent with fungal infection and their recs were to give a week of
   Fluconazole.  Will consider PO vanc if spikes a fever.
   - ID following, negative c diff
   - 7-day course of linezolid finished [**1-1**], fluconazole ends [**1-3**] for
   cutaneous candidiasis
   - follow-up cultures, no obvious source yet
   - foley changed [**1-1**]
   .
   # Met alkalosis
 likely combination of compensation for respiratory
   acidosis and contraction alkalosis
   -          will check VBG and give diamox depending on CO2/HCO3 level
   .
   #  Anemia
 stable
   -          received one unit PRBC yesterday, appropriately increased
   HCT to 31.6
   -          limit tx [**12-21**] concern for fluid overload
   .
   # Depression
 followed by  (outpt psych)
   - prozac dose to 80 mg daily
   - Continue Geodon
   - Intermittent Ativan
   .
   # Rash: Pt with papular rash and occasional pustules on lower back,
   buttocks
 location, symptoms do not appear c/w drug reaction.  Likely
   contact dermatitis or fungal infection.
   - c/w cutaneous candidiasis -> tx with fluconazole, last day [**1-3**]
   # FEN: getting tube feeds, replete lytes PRN, patient has severe
   cachexia
   -          nutrition recs increasing TFs by 5cc/hr (do not want to
   increase CO2 production too much given baseline tachypnea)
   -          Speech consult will do swallow eval when tolerating PSV 5/5
   with PMV for longer periods
   Prophy: Heparin SQ, scheduled bowel regimen, switched from PPI to
   randitine to reduce drug interactions
   Access: has PICC
   Code: FULL CODE
   Dispo
 getting ready for transfer to rehab on [**1-3**]
   Communication: with patient and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   [**Name (NI) 1465**] 2.0 (Full) - [**2179-1-1**] 10:02 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-27**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-01-03 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-2**] Events:
   - tolerated trach mask for the majority of the day
   - PMV for 30 minutes at a time
   - plan to send to rehab [**1-3**]
   - last day of fluconazole [**1-3**]
   Allergies:
   Clindamycin
   face swelling;
   Last dose of Antibiotics:
   Linezolid - [**2178-12-31**] 08:52 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-1-3**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-1-3**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 91 (64 - 92) bpm
   BP: 121/63(76) {95/48(62) - 124/79(83)} mmHg
   RR: 33 (17 - 42) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,889 mL
                                                                    276 mL
   PO:
                  TF:
                                                                    721 mL
                                                                    176 mL
   IVF:
                                                                     90 mL
   Blood products:
                                                                    328 mL
   Total out:
                                                                  1,620 mL
                                                                    300 mL
   Urine:
                                                                  1,620 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    269 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 445 (343 - 463) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///37/
   Ve: 10.2 L/min
   Physical Examination
   General: very pleasant, middle aged woman tachypneic in mild
   respiratory distress with increased work of breathing
   HEENT: NC, AT, sclera white, conjunctiva pink, mmm
   CV: regular s1 s2 no m/r/g
   Pulm: Coarse breath sounds throughout with occasional wheezes, rash
   improved
   Abd: + BS, soft, NT, ND
   Ext: warm, well-perfused, trace LE edema bilateral and symmetric
   Neuro: CN 2-12 intact and symmetric; [**3-23**] upper and lower extremity
   strength, alert and oriented
   Labs / Radiology
   654 K/uL
   10.9 g/dL
   108 mg/dL
   0.4 mg/dL
   37 mEq/L
   4.2 mEq/L
   12 mg/dL
   99 mEq/L
   140 mEq/L
   32.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2178-12-29**]  07:10 PM
                             [**2178-12-30**]  02:27 AM
                             [**2178-12-30**]  03:58 PM
                             [**2178-12-30**]  10:00 PM
                             [**2178-12-31**]  03:09 AM
                             [**2178-12-31**]  04:00 AM
                             [**2178-12-31**]  01:51 PM
                             [**2179-1-1**]  02:44 AM
                             [**2179-1-2**]  04:09 AM
                             [**2179-1-3**]  03:33 AM
   WBC
   24.5
   25.5
   21.5
   23.8
   21.0
   Hct
   27.2
   28.4
   27.1
   31.6
   32.9
   Plt
   [**Telephone/Fax (3) 4666**]82
   654
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   0.3
   0.4
   TCO2
   47
   Glucose
   129
   118
   122
   158
   111
   141
   123
   114
   108
   Other labs: PT / PTT / INR:12.9/24.0/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:[**10-5**], Alk Phos / T Bili:121/0.2, Amylase / Lipase:78/41,
   Differential-Neuts:89.4 %, Band:0.0 %, Lymph:6.2 %, Mono:2.3 %, Eos:1.9
   %, Fibrinogen:520 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL,
   LDH:259 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   55yo female with resolving ARDS and H. flu bacteremia presents for
   re-admission to the MICU for increased O2 requirement, afebrile for
   past four days.
   .
   # ARDS
 Patient has documented dead space of 84%. Patient had
   completed a course of treatment for known H. flu bacteremia with
   azithromycin, 7 day empiric course of meropenem. After worsening around
   [**12-20**], patient was started on vanc/zosyn. On [**12-24**] and [**12-25**] [**Female First Name (un) **] was done
   bilaterally for concern of empyema. Patient was trached on [**12-25**]. Patient
   continues to be tachypneic in the 30-40s with an element of anxiety.
   Multiple bronchs have been done and there does not appear to be a
   current PNA since there are not any secretions. Concern for
   inflammatory causes less in the setting of no bronchial fluid or
   peripheral eosinophillia. Differential includes infectious cause vs.
   BOOP. There has been a poor response to antbiotics and no secretions on
   bronch argues against PNA. Patients peribronchovascular pattern could
   be consistent with BOOP over typical ARDS picture. BOOP would require
   treatment with steroids and until clear diagnosis is made difficult to
   justify steroids in the setting of possible infectious cause.
   Differentiation of the etiologies of the ARDS would require tissue bx.
   This would require VATS but the patient does not have enough lung
   reserve to take down one lung for the procedure. The patient
s clinical
   resp pattern is consistent with pulmonary fibrosis vs. rind. IP did not
   feel thoracentesis would be beneficial. Patient got PSV valve placed on
   [**12-30**], resp status improving.
   - Continue periods of PMV, trach mask and PSV 5/5, avoiding resp
   fatigue
   - patient would not be a good candidate for vasodialtors such as
   slidenafil or NO
   - will not tx with steroids
   .
   # Fever and Leukocytosis
 WBC stable, unclear etiology for patient's
   fever and leukocytosis.  Blood cultures NTD, VRE in urine but not
   likely source of infection. Cardiac echo, no evidence of endocarditis.
   No evidence of empyemas on [**Female First Name (un) **], pan-scan negative. Stopped Flagyl for
   cdiff b/c not consistent with lab or clinical findings.  Bilateral
   thoracentesis with no infectious organism identified.  Derm bx was
   consistent with fungal infection and their recs were to give a week of
   Fluconazole.  Will consider PO vanc if spikes a fever.
   - ID following, negative c diff
   - 7-day course of linezolid finished [**1-1**], fluconazole ends [**1-3**] for
   cutaneous candidiasis
   - follow-up cultures, no obvious source yet
   - foley changed [**1-1**]
   .
   # Met alkalosis
 likely combination of compensation for respiratory
   acidosis and contraction alkalosis
   -          will check VBG and give diamox depending on CO2/HCO3 level
   .
   #  Anemia
 stable
   -          received one unit PRBC yesterday, appropriately increased
   HCT to 31.6
   -          limit tx [**12-21**] concern for fluid overload
   .
   # Depression
 followed by  (outpt psych)
   - prozac dose to 80 mg daily
   - Continue Geodon
   - Intermittent Ativan
   .
   # Rash: Pt with papular rash and occasional pustules on lower back,
   buttocks
 location, symptoms do not appear c/w drug reaction.  Likely
   contact dermatitis or fungal infection.
   - c/w cutaneous candidiasis -> tx with fluconazole, last day [**1-3**]
   # FEN: getting tube feeds, replete lytes PRN, patient has severe
   cachexia
   -          nutrition recs increasing TFs by 5cc/hr (do not want to
   increase CO2 production too much given baseline tachypnea)
   -          Speech consult will do swallow eval when tolerating PSV 5/5
   with PMV for longer periods
   Prophy: Heparin SQ, scheduled bowel regimen, switched from PPI to
   randitine to reduce drug interactions
   Access: has PICC
   Code: FULL CODE
   Dispo
 getting ready for transfer to rehab on [**1-3**]
   Communication: with patient and husband
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-12-27**] 01:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: